US04282245
To a mixture of 40 mg of 2-(10,11-dihydro-8-trifluoromethyl-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide and 1 ml of ethanol was added 200 mg of sodium hydroxide in 1 ml of water, and the mixture was stirred at 75° C. for 5 hours. After cooling, the solvent or ethanol was removed by distillation to obtain a residue, to which was added water, and the resulting mixture was washed with chloroform. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a yellow oil, which was thin-layer chromatographed and developed with chloroform-methanol (10:1), thereby obtaining 15 mg (yield: 38%) of 2-(10,11-dihydro-8-trifluoromethyl-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a light yellow oil.

reactant | 2-(10,11-dihydro-8-trifluoromethyl-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 40 mg | FC(C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1)(F)F | C18H14F3NO2S
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 200 mg | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 2-(10,11-dihydro-8-trifluoromethyl-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 15 mg, yield: 38% | FC(C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1)(F)F | C18H13F3O3S
